US07745229B2
F. Synthesis of acetic acid 3-azido-2-oxo-2H-chromen-7-yl ester (7-Acetic-3-azidocoumarin)
To a stirred suspension of 3-azido-7-hydroxycoumarin (203 mg, 1.0 mmol) in dry CH2Cl2 (15 mL), acetic anhydride (1.5 mmol) and pyridine (one drop) were added. Upon stirring overnight at room temperature, the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with H2O. The organic layer was dried over anhydrous Na2SO4 and concentrated. Purification with column chromatography over silica gel (hexane-EtOAc 4:1) afforded the final product as a yellow solid (210 mg, 86%). 1H-NMR (DMSO-d6, 300 MHz) δ 2.29 (s, 3H), 7.17 (dd, J=8.0, 2.0 Hz, 1H), 7.32 (d, J=2.1 Hz, 1H), 7.67 (s, 1H), 7.70 (d, J=7.9 Hz, 1H). 13C NMR (DMSO-d6, 75 MHz) δ 21.5, 110.6, 117.8, 119.9, 125.8, 126.8, 129.2, 151.9, 152.3, 157.5, 169.6. IR (KBr): 2133 (vs), 1749, 1730 (vs), 1622 (s), 1234 (s). EI-HRMS m/e calculated for M+ C11H7N3O4 245.0437; found 245.0432.

reactant | 3-azido-7-hydroxycoumarin | 1.0 mmol, 203 mg | N(=[N+]=[N-])C=1C(OC2=CC(=CC=C2C1)O)=O | C9H5N3O3
reactant | acetic anhydride | 1.5 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
product | acetic acid 3-azido-2-oxo-2H-chromen-7-yl ester | 210 mg, 86% | N(=[N+]=[N-])C=1C(OC2=CC(=CC=C2C1)OC(C)=O)=O | C11H7N3O4
